### PR TITLE
feat: add BitVec.signExtend_extractLsb_setWidth theorem

### PR DESCRIPTION
**Pull request by osmanyasar05**
This PR introduces the theorem `BitVec.sshiftRight_eq_setWidth_extractLsb_signExtend` theorem, proving `x.sshiftRight n` is equivalent to first sign-extending `x`, extracting the appropriate least significant bits, and then setting the width back to `w`.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2572,6 +2571,15 @@ theorem msb_signExtend {x : BitVec w} :
   · simp [h, BitVec.msb, getMsbD_signExtend, show v - w = 0 by omega]
   · simp [h, BitVec.msb, getMsbD_signExtend, show ¬ (v - w = 0) by omega]
 
+theorem sshiftRight_eq_setWidth_extractLsb_signExtend {w : Nat} {x : BitVec w} (n : Nat) :
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]: We might want to invert the lhs and rhs and mark the lemma as `simp`? 
And update the namihg accordingly?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2572,6 +2571,15 @@ theorem msb_signExtend {x : BitVec w} :
...
+    x.sshiftRight n = ((x.signExtend (w + n)).extractLsb (w - 1 + n) n).setWidth w := by
+  ext i hi
+  simp only [getElem_sshiftRight, getElem_setWidth, getLsbD_extract,
+    Nat.add_sub_cancel, show i ≤ w - 1 by omega, decide_true, getLsbD_signExtend,
+    Bool.true_and]
+  by_cases hni : (n + i) < w
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  by_cases hni : n + i < w
```
should work

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2297,7 +2297,6 @@ theorem sshiftRight_or_distrib (x y : BitVec w) (n : Nat) :
     <;> by_cases w ≤ i
     <;> simp [*]
 
-
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:2300]: can you undo this change? We want to keep the diff as small as possible :)

Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2300]: Unrelated.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -2572,6 +2572,16 @@ theorem msb_signExtend {x : BitVec w} :
   · simp [h, BitVec.msb, getMsbD_signExtend, show v - w = 0 by omega]
   · simp [h, BitVec.msb, getMsbD_signExtend, show ¬ (v - w = 0) by omega]
 
+@[simp]
+theorem setWidth_extractLsb_signExtend_eq_sshiftRight {w : Nat} {x : BitVec w} (n : Nat) :
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]: a question: is the `(n : Nat)` necessarily explicit or can we make it implicit?

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (osmanyasar05) [reply src/Init/Data/BitVec/Lemmas.lean]: updated

File: src/Init/Data/BitVec/Lemmas.lean (hunk 4 above)
Comment (osmanyasar05) [reply src/Init/Data/BitVec/Lemmas.lean]: Yes, I think Lean can infer that one. If I am not mistaken, we can also remove`{w : Nat}`

File: src/Init/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (osmanyasar05) [reply src/Init/Data/BitVec/Lemmas.lean]: done

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- 🟡 Mathlib branch [lean-pr-testing-11943](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11943) build this PR didn't complete normally. (2026-01-08 19:23:28) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/20826139153)
- ✅ Mathlib branch [lean-pr-testing-11943](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11943) has successfully built against this PR. (2026-01-08 20:28:05) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/20828829368)
- ✅ Mathlib branch [lean-pr-testing-11943](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11943) has successfully built against this PR. (2026-01-09 12:20:58) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/20849824240)
- ✅ Mathlib branch [lean-pr-testing-11943](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11943) has successfully built against this PR. (2026-01-09 16:51:44) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/20857410772)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -2572,6 +2572,16 @@ theorem msb_signExtend {x : BitVec w} :
   · simp [h, BitVec.msb, getMsbD_signExtend, show v - w = 0 by omega]
   · simp [h, BitVec.msb, getMsbD_signExtend, show ¬ (v - w = 0) by omega]
 
+@[simp]
+theorem signExtend_extractLsb_setWidth_eq_sshiftRight {x : BitVec w} {n : Nat} :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem signExtend_extractLsb_setWidth {x : BitVec w} {n : Nat} :
```

**Comment by osmanyasar05** [comment]
changelog-library

**Review by bollu — APPROVED** [review]
LGTM, thanks! It took me a moment's thinking to see why this is true, so a comment would be appreciated :)
